US07071173B2
d) Synthesis of 2′,3′-Dideoxy-3′-fluoro-5′-O-[2-(N-FMOC-L-valyloxy)stearoyl] guanosine
A mixture of 2′,3′-dideoxy-3′-fluoroguanosine (404 mg, 1.5 mmole), 2-(N-FMOC-L-valyloxy)stearic acid (1.24 g, 2 mmole), DMAP (24 mg, 0.2 mmole) and HOBT (264 mg, 1,95 mmole) was coevaporated two times with DMF and reduced to about 30 ml. DCC (372 mg, 1.8 mmole) was added and the mixture was stirred overnight at room temperature. The mixture was filtered and the solution was evaporated under reduced pressure. Ethyl acetate (50 ml) was added and the organic phase washed twice with 5% acetic acid, with 5% sodium hydrogen carbonate and with water. The organic phase was dried with sodium sulfate and evaporated under reduced pressure.

reactant | 2′,3′-dideoxy-3′-fluoroguanosine | 1.5 mmole, 404 mg | F[C@H]1C[C@@H](O[C@@H]1CO)N1C=NC=2C(=O)NC(N)=NC12 | C10H12FN5O3
reactant | 2-(N-FMOC-L-valyloxy)stearic acid | 2 mmole, 1.24 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](C(C)C)C(=O)OC(C(=O)O)CCCCCCCCCCCCCCCC | C38H55NO6
reactant | HOBT | 1,95 mmole, 264 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 1.8 mmole, 372 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 0.2 mmole, 24 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | CN(C)C=O | C3H7NO
product | 2′,3′-Dideoxy-3′-fluoro-5′-O-[2-(N-FMOC-L-valyloxy)stearoyl] guanosine | F[C@H]1C[C@@H](O[C@@H]1COC(C(CCCCCCCCCCCCCCCC)OC([C@@H](NC(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12)C(C)C)=O)=O)N1C=NC=2C(=O)NC(N)=NC12 | C48H65FN6O8
